US06982348B2
1) ethyl 3-[4-(methylsulfonyl)phenyl]-3-oxopropanoate
To a mixed solution of 4-(methylsulfonyl)acetophenone (10 g, 42.2 mmol), ethanol (0.2 ml) and diethyl carbonate (50 ml) was added sodium hydride (3.37 g, 60% in oil, 84.4 mmol) by small portions at room and the mixture was stirred temperature for 2 hrs. and at 60° C. for 1 hr. The reaction solution was cooled, 1N hydrochloric acid (30 ml) was added and the mixture was extracted with ethyl acetate (100 ml). The extract was washed with water, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel chromatography (hexane:ethyl acetate=3:1) to give the objective substance (3.76 g, 33%) as crystals.

reactant | 4-(methylsulfonyl)acetophenone | 42.2 mmol, 10 g | CC(=O)C1=CC=C(C=C1)S(=O)(=O)C | C9H10O3S
reactant | diethyl carbonate | 50 ml | C(OCC)(OCC)=O | C5H10O3
reactant | sodium hydride | 84.4 mmol, 3.37 g | [H-].[Na+]
reactant | hydrochloric acid | 1N, 30 ml | Cl | ClH
solvent | ethanol | 0.2 ml | C(C)O | C2H6O
product | ethyl 3-[4-(methylsulfonyl)phenyl]-3-oxopropanoate | CS(=O)(=O)C1=CC=C(C=C1)C(CC(=O)OCC)=O | C12H14O5S
